US04038391
Following the procedure of Example 9 but starting with a suspension of 6-(7-methyl-1,8-naphthyridin-2-yl)-7-hydroxy-5-oxo-pyrrolo[3,4-b]pyridine (2.7 g.) in anhydrous tetrahydrofuran (27 cc.), sodium hydride (50% dispersion in mineral oil) (0.885 g.) and 1chloro-carbonyl-4-methylpiperazine (3 g.) dissolved in anhydrous tetrahydrofuran (30 cc.), a reaction mixture is obtained which is poured into ice-water (210 cc.). The mixture is extracted with methylene chloride (3 × 400 cc.). The combined extracts are dried over potassium carbonate and are concentrated to dryness. A residue weighing 4.9 g. is thus obtained and is triturated with diisopropyl ether (60 cc.). The precipitate which appears is filtered off. The resulting product (3.6 g.) is dissolved in methylene chloride (72 cc.), and the solution is passed through a column of silica gel (36 g.). Elution is carried out successively with methylene chloride (3 × 500 cc.), a mixture (3 × 500 cc.) of methylene chloride and ethyl acetate (50--50 by volume), pure ethyl acetate (3 × 500 cc.) and a mixture (4 × 500 cc.) of ethyl acetate and methanol (90-10 by volume). The last four eluates are concentrated to dryness and the residue obtained is recrystallised from acetonitrile (58 cc.). 6-(7-Methyl-1,8-naphthyridin-2-yl)-7-(4-methylpiperazin-1-yl)carbonyloxy-5-oxo-pyrrolo[3,4-b]pyridine (1.12 g.), melting at 226° C., is thus obtained.

reactant | 6-(7-methyl-1,8-naphthyridin-2-yl)-7-hydroxy-5-oxo-pyrrolo[3,4-b]pyridine | 2.7 g | CC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CC=C2C1=O)O | C16H12N4O2
reactant | sodium hydride | 0.885 g | [H-].[Na+]
reactant | 1chloro-carbonyl-4-methylpiperazine | 3 g | ClN1C(CN(CC1)C)=C=O | C6H9ClN2O
reactant | tetrahydrofuran | 27 cc | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
product | 6-(7-Methyl-1,8-naphthyridin-2-yl)-7-(4-methylpiperazin-1-yl)carbonyloxy-5-oxo-pyrrolo[3,4-b]pyridine | 1.12 g | CC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CC=C2C1=O)OC(=O)N1CCN(CC1)C | C22H22N6O3
